US05283251
To a solution of benzyl 4-[5-chloro-1-(3-nitrobenzoyl)indol-3-yl]butyrate (1.3 g) in a mixture of methanol (35 ml), 1,4-dioxane (35 ml) and water (5 ml) was added 10% palladium on activated carbon (400 mg), and the mixture was stirred under hydrogen atmosphere (3 atm) at 20° C. for 4 hours. The catalyst was filtered off and the filtrate was evaporated. The residue was chromatographed on silica gel (40 g) eluting with 2% methanol in chloroform to give 4-[1-(3-aminobenzoyl)-5-chloroindol-3-yl]butyric acid (731 mg) as pale yellow crystals.

reactant | benzyl 4-[5-chloro-1-(3-nitrobenzoyl)indol-3-yl]butyrate | 1.3 g | ClC=1C=C2C(=CN(C2=CC1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O)CCCC(=O)OCC1=CC=CC=C1 | C26H21ClN2O5
reactant | 1,4-dioxane | 35 ml | O1CCOCC1 | C4H8O2
reactant | water | 5 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
catalyst | palladium on activated carbon | 400 mg | [Pd] | Pd
product | 4-[1-(3-aminobenzoyl)-5-chloroindol-3-yl]butyric acid | 731 mg | NC=1C=C(C(=O)N2C=C(C3=CC(=CC=C23)Cl)CCCC(=O)O)C=CC1 | C19H17ClN2O3
